US07550495B2
Step D: Methyl {3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate
Methyl {3-nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate (2.53 g, 8.18 mmol) was dissolved in 50 mL of EtOAc containing a catalytic amount of 10% Pd/C. The solution was shaken under H2 atmosphere (40 psi) using a Parr hydrogenation apparatus overnight at rt. The solution was filtered through Celite and the solvent was evaporated. Yield: 2.29 g (99%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.40 (m, 2 H), 1.70-1.74 (m, 1 H), 1.74-1.77 (m, 1 H), 1.81-1.92 (m, 1 H), 2.99 (d, J=6.64 Hz, 2 H), 3.34 (br.s, 2 H), 3.41 (m, 2 H), 3.74 (s, 3 H), 3.99 (d, J=3.51 Hz, 1 H), 4.02 (d, J=3.51 Hz, 1 H), 6.38 (br.s, 1 H), 6.55-6.60 (m, 1 H), 6.62-6.68 (m, 1 H), 6.95 (br.s, 1 H).

reactant | Methyl {3-nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate | 8.18 mmol, 2.53 g | [N+](=O)([O-])C=1C=C(C=CC1NCC1CCOCC1)NC(OC)=O | C14H19N3O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | Methyl {3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate | NC=1C=C(C=CC1NCC1CCOCC1)NC(OC)=O | C14H21N3O3
